US20010006973A1
4-Methyl-2-(2,6-dioxo-3-methyl-(3-piperidyl))isoindoline-1,3-dione was prepared by the procedure of Example 1 from 3-methylphthalic anhydride (0.27 g, 1.7 mmol), 3-amino-3-methylpiperidine-2,6-dione hydrogen chloride (0.30 g, 1.7 mmol) and sodium acetate (0.15 g, 1.8 mmol) in acetic acid (10 mL). The product was a white solid (0.13 g, 27% yield); mp, 248.0-250.0° C.; 1H NMR (DMSO-d6) δ1.89 (s, 3H, CH3), 2.01-2.08 (m, 1H, CHH), 2.49-2.70 (m, 3H, CHH, CH2), 2.55 (s, 3H, CH3), 7.62-7.74 (m, 3H, Ar), 10.99 (br s, 1H, NH); 13C NMR (DMSO-d6) δ17.0, 21.0, 28.6, 29.1, 58.6, 120.7, 127.5, 131.5, 134.2, 136.8, 137.2, 167.7, 168.6, 172.1, 172.3; Anal. Calcd. for C15H14N2O4+ 0.3 H2O: C, 61.77; H, 5.05; N, 9.60. Found: C, 62.05; H, 4.94; N, 9.20.

reactant | 3-methylphthalic anhydride | 1.7 mmol, 0.27 g | CC1=C2C(C(=O)OC2=O)=CC=C1 | C9H6O3
reactant | 3-amino-3-methylpiperidine-2,6-dione hydrogen chloride | 1.7 mmol, 0.30 g | Cl.NC1(C(NC(CC1)=O)=O)C
reactant | sodium acetate | 1.8 mmol, 0.15 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 4-Methyl-2-(2,6-dioxo-3-methyl-(3-piperidyl))isoindoline-1,3-dione | CC1=C2C(N(C(C2=CC=C1)=O)C1(C(NC(CC1)=O)=O)C)=O | C15H14N2O4
